US06229020B1
Synthesis of (E) 3-(2-amino-4-dimethylaminophenyl)-2-methyl-2-propenoic acid
ethyl 3-(2-amino-4-dimethylaminophenyl)-2-methyl-2-propenate was dissolved in tetrahydrofuran (THF); and, with 10 ml of a 1-N aqueous sodium hydroxide solution being added thereto, the mixture was reacted for 4 hours at 40° C. After the completion of the reaction was verified by TLC, the mixture was cooled with 1-N hydrochloric acid being added thereto, and the precipitated crystal was filtered out, whereby the aimed compound was obtained.

reactant | ethyl 3-(2-amino-4-dimethylaminophenyl)-2-methyl-2-propenate | NC1=C(C=CC(=C1)N(C)C)C=C(C(=O)OCC)C | C14H20N2O2
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(2-amino-4-dimethylaminophenyl)-2-methyl-2-propenoic acid | NC1=C(C=CC(=C1)N(C)C)C=C(C(=O)O)C | C12H16N2O2
